US05684022
To a mixture of 2-chloro-4-methylphenol (100 g), triethylamine (92.3 g) and anhydrous tetrahydrofuran (1 liter) was added dropwise pivalic chloride (93.0 g) at 5° to 10° C. under stirring over 1 hour. Then, after stirring at the same temperature for 3 hours, the reaction mixture was poured into ice water, which was extracted with diethyl ether. The organic layer was washed with 3% aqueous hydrochloric acid solution and then water, dried with anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting oil was distilled under reduced pressure, which afforded 155.3 g of 2-chloro-4-methylphenyl 2,2-dimethylpropanoate as a colorless clear liquid. Yield, 97.7%.

reactant | 2-chloro-4-methylphenol | 100 g | ClC1=C(C=CC(=C1)C)O | C7H7ClO
reactant | triethylamine | 92.3 g | C(C)N(CC)CC | C6H15N
reactant | pivalic chloride | 93.0 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
product | 2-chloro-4-methylphenyl 2,2-dimethylpropanoate | 155.3 g | CC(C(=O)OC1=C(C=C(C=C1)C)Cl)(C)C | C12H15ClO2
